US07189738B2
5-Chloro-N-(1,3-dioxo-2-{2-oxo-2-[4-(4-pyridinyl)piperazino]ethyl}-2,3-dihydro-1H-isoindol-4-yl)-2-thiophenecarboxamide
0.43 g (1.18 mmol) of 2-(4-{[(5-chloro-2-thienyl)carbonyl]amino}-1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)acetic acid is dissolved in 15 ml DMF, 0.2 g (1.3 equivalents) 1-hydroxy-1H-benzotriazole hydrate (HOBT) and 0.238 g of N′-(3-dimethylaminopropyl)-N-ethylcarbodiimide (EDCI) (1.3 equivalents) are added and 0.305 g (0.411 ml; 2 equivalents) of diisopropylethylamine (DIEA) is added dropwise at room temperature over a period of 15 min. The mixture is stirred at room temperature overnight, the suspension turning into a clear solution. Water is then added to the reaction mixture, the aqueous phase is extracted three times with ethyl acetate, the combined organic phases are dried and concentrated under reduced pressure and the residue is coevaporated three times with toluene. The residue is suspended in toluene, filtered and washed with toluene. Drying gives 0.458 g (76.4% of theory) of the target compound of m.p. 207° C.

reactant | 2-(4-{[(5-chloro-2-thienyl)carbonyl]amino}-1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)acetic acid | 1.18 mmol, 0.43 g | ClC1=CC=C(S1)C(=O)NC1=C2C(N(C(C2=CC=C1)=O)CC(=O)O)=O | C15H9ClN2O5S
reactant | 1-hydroxy-1H-benzotriazole hydrate | 0.2 g, 1.3 equivalents | O.ON1N=NC2=C1C=CC=C2
reactant | N′-(3-dimethylaminopropyl)-N-ethylcarbodiimide | 0.238 g, 1.3 equivalents | CN(CCCN=C=NCC)C | C8H17N3
reactant | diisopropylethylamine | 0.411 ml, 0.305 g, 2 equivalents | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 5-Chloro-N-(1,3-dioxo-2-{2-oxo-2-[4-(4-pyridinyl)piperazino]ethyl}-2,3-dihydro-1H-isoindol-4-yl)-2-thiophenecarboxamide | ClC1=CC=C(S1)C(=O)NC1=C2C(N(C(C2=CC=C1)=O)CC(N1CCN(CC1)C1=CC=NC=C1)=O)=O | C24H20ClN5O4S
